US08664257B2
(S)-3-{[5-(2-Cyano-benzyloxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-3-o-tolyl-propionic acid
210 mg (0.4 mmol) of (S)-3-{[5-(2-cyano-benzyloxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-3-o-tolyl-propionic acid ethyl ester were dissolved in a mixture of THF, MOH and water (2 ml each), lithium hydroxide (28.7 mg, 1.2 mmol) was added, and the mixture was stirred for 3 h at room temperature. After evaporation of the solvent the residue was subjected to aqueous work-up using EA and a 10% aqueous solution of citric acid. After evaporation of the organic phase the residue was subjected to column chromatography (silica gel, DCM/MOH 10:1) to give 45 mg (23%) of the title compound.

reactant | (S)-3-{[5-(2-cyano-benzyloxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-3-o-tolyl-propionic acid ethyl ester | 0.4 mmol, 210 mg | C(C)OC(C[C@@H](C1=C(C=CC=C1)C)NC(=O)C1=NN(C(=C1)OCC1=C(C=CC=C1)C#N)C1=C(C=CC=C1)F)=O | C30H27FN4O4
reactant | lithium hydroxide | 1.2 mmol, 28.7 mg | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | (S)-3-{[5-(2-Cyano-benzyloxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-3-o-tolyl-propionic acid | 45 mg, 23% | C(#N)C1=C(COC2=CC(=NN2C2=C(C=CC=C2)F)C(=O)N[C@@H](CC(=O)O)C2=C(C=CC=C2)C)C=CC=C1 | C28H23FN4O4
